US04933330
2-Hydroxy-5-aminobenzoic acid (20.0 g, 0.131 mole) was suspended in water (100 ml), and acetic anhydride (15.0 ml) was added. The reaction mixture was heated to 100° C., with stirring, for 10 minutes, cooled in an ice bath, and the product was isolated by filtration. After recrystallization from water, with activated carbon, analytically pure 2-hydroxy-5-acetamidobenzoic acid (17.0 g, 67%) was obtained, m.p. 218°-220° C. Found (Calc. for C9H9NO4) C 55.10 (55.38), H 4.61 (4.62), N 7.10 (7.18).

reactant | 2-Hydroxy-5-aminobenzoic acid | 0.131 mole, 20.0 g | OC1=C(C(=O)O)C=C(C=C1)N | C7H7NO3
reactant | acetic anhydride | 15.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 100 ml | O | H2O
product | 2-hydroxy-5-acetamidobenzoic acid | 17.0 g, 67% | OC1=C(C(=O)O)C=C(C=C1)NC(C)=O | C9H9NO4
